US07723368B2
To a solution of 2-amino-4-(4-(difluoromethoxy)phenyl)-4-(3-hydroxyphenyl)-1-methyl-1H-imidazol-5(4H)-one (0.070 g, 0.20 mmol), but-3-en-1-ol (0.023 g, 0.32 mmol), and PS—PPh3 (0.145 g, 0.32 mmol, 2.2 mmol/g) in THF (2 mL) is added diethylazodicarboxylate (0.058 g, 0.38 mmol) in THF (0.5 mL) dropwise. The mixture is stirred at 60° C. for 4 h. The solution is cooled to RT and the PPh3 is filtered and washed with CH2Cl2 and MeOH. The solvent is removed, the remaining material is absorbed onto Celite and purified by Flash Chromatography (15:1 CH2CL2:MeOH) to yield 2-amino-4-(3-(but-3-enyloxy)phenyl)-4-(4-(difluoromethoxy)phenyl)-1-methyl-1H-imidazol-5(4H)-one (0.051 g, 73%) as an off white foam.

reactant | 2-amino-4-(4-(difluoromethoxy)phenyl)-4-(3-hydroxyphenyl)-1-methyl-1H-imidazol-5(4H)-one | 0.20 mmol, 0.070 g | NC=1N(C(C(N1)(C1=CC(=CC=C1)O)C1=CC=C(C=C1)OC(F)F)=O)C | C17H15F2N3O3
reactant | but-3-en-1-ol | 0.32 mmol, 0.023 g | C(CC=C)O | C4H8O
reactant | PPh3 | 0.32 mmol, 0.145 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethylazodicarboxylate | 0.38 mmol, 0.058 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 2-amino-4-(3-(but-3-enyloxy)phenyl)-4-(4-(difluoromethoxy)phenyl)-1-methyl-1H-imidazol-5(4H)-one | 0.051 g, 73% | NC=1N(C(C(N1)(C1=CC=C(C=C1)OC(F)F)C1=CC(=CC=C1)OCCC=C)=O)C | C21H21F2N3O3
